* Unbypassed emitter-degenerated CE amplifier, gain approximately -5.
VIN IN 0 DC 0 AC 1
VDD VCC 0 12
CIN IN B 10u
RBIAS1 VCC B 47k
RBIAS2 B 0 4.7k
RC VCC C 3.3k
RE E 0 360
Q1 C B E 2N2222
COUT C OUT 10u
RLOAD OUT 0 4.7k
.end
